US05827849
The N-(1-tert-butyloxycarbonyl-4-piperidinyl)-N-(2,2-di-ethoxyethyl)amine [Rf : 0.48 (reversed phase silica gel; methanol/5% aqueous brine=6:4)] employed is prepared by reductive amination of 1-tert-butyloxycarbonyl-4-piperidone with aminoacetaldehyde diethyl acetal

reactant | 1-tert-butyloxycarbonyl-4-piperidone | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | aminoacetaldehyde diethyl acetal | C(C)OC(CN)OCC | C6H15NO2
product | N-(1-tert-butyloxycarbonyl-4-piperidinyl)-N-(2,2-di-ethoxyethyl)amine | 5% | C(C)(C)(C)OC(=O)N1CCC(CC1)NCC(OCC)OCC | C16H32N2O4
